US03948910
Example I: 6-Chloro-2-(isopropylamino)pyridine-N-oxide ##SPC3##
To a solution consisting of 10 grams (0.06 mole) of 2,6-dichloropyridine-N-oxide in 50 milliliters of dimethylsulfoxide was slowly added 7.9 grams (0.134 mole) of isopropylamine. The temperature of the mixture was 90°C. at the start of the reaction and was allowed to increase to 120°C. After a total reaction time of ~50 minutes, 3/4 of the dimethylsulfoxide was removed by evaporation and the reaction mixture poured over ice. The solid precipitate which formed was removed by filtration and taken up in 500 milliliters of hot hexane. The 6-chloro-2-(isopropylamino)pyridine-N-oxide product melting at 150°-151°C. and was recovered by filtration in a yield of 5 grams. Upon analysis, the product was found to have carbon, hydrogen, chlorine and nitrogen contents of 51.47, 5.96, 19.01 and 15.01 percent, respectively, as compared with the theoretical contents of 51.46, 5.94, 18.99 and 14.99 percent, respectively, calculated for the above named compound.

reactant | 2,6-dichloropyridine-N-oxide | 0.06 mole, 10 grams | ClC1=[N+](C(=CC=C1)Cl)[O-] | C5H3Cl2NO
reactant | isopropylamine | 0.134 mole, 7.9 grams | C(C)(C)N | C3H9N
solvent | dimethylsulfoxide | 50 milliliters | CS(=O)C | C2H6OS
product | 6-Chloro-2-(isopropylamino)pyridine-N-oxide | ClC1=CC=CC(=[N+]1[O-])NC(C)C | C8H11ClN2O
